### PR TITLE
[Merged by Bors] - feat: `norm_num` extension for `IsSquare`

### PR DESCRIPTION
**Pull request by yury-harmonic**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 1]
```diff
@@ -0,0 +1,167 @@
...
+  refine absurd hq (ne_of_lt ?_)
+  calc
+    -(n / d : ℚ) < 0 := by rw [Left.neg_neg_iff]; apply div_pos <;> simpa [Nat.pos_iff_ne_zero]
+    _ ≤ q * q := mul_self_nonneg _
+
+open Lean in
+/-- `norm_num` extension for `IsSquare`.
+
+Works for `ℕ`, `ℤ`, `ℚ`. -/
+@[norm_num IsSquare _]
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/IsSquare.lean]: Do you think it would make sense split this into a separate extension for each of these types?
That would make it more natural to add support for other types in the future.

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 2]
```diff
@@ -0,0 +1,167 @@
...
+      let ⟨b, pb⟩ ← deriveBoolOfIff q(IsSquare $n) q(IsSquare $a)
+        q(iff_isSquare_int_of_isNat $a $n $pa)
+      return .ofBoolResult pb
+    | .isNegNat sa n pa => do
+      assertInstancesCommute
+      let ⟨b, pb⟩ ← deriveBoolOfIff q($n = 0) q(IsSquare $a) q(iff_isSquare_of_isInt_int $a $n $pa)
+      return .ofBoolResult pb
+    | _ => failure
+  | 0, ~q(Prop), ~q(@IsSquare ℚ $mulQ $a) => do
+    match ← derive a with
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/IsSquare.lean:148]: #30439 chooses to instead do `deriveBool q(IsSquare ($x).num)` and `deriveBool q(IsSquare ($x).den)`, which ends up being more succinct. Is there any reason not to do that here too?

Comment (yury-harmonic) [reply Mathlib/Tactic/NormNum/IsSquare.lean:148]: I only `derive x` once. Also, I avoid proving `Nat.Coprime` unless I need it.

File: Mathlib/Tactic/NormNum/IsSquare.lean (hunk 1 above)
Comment (yury-harmonic) [reply Mathlib/Tactic/NormNum/IsSquare.lean]: Done.

**Comment by dwrensha** [comment]
Looks good to me. I think CI is failing for everyone right now.

maintainer merge

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 3]
```diff
@@ -0,0 +1,184 @@
...
+theorem not_isSquare_of_isNNRat_rat_of_den (a : ℚ) (n d : ℕ) (hd : ¬IsSquare d) (hnd : n.Coprime d)
+    (ha : IsNNRat a n d) : ¬IsSquare a := by
+  rw [ha.to_eq rfl rfl, Rat.isSquare_iff, ← Int.cast_natCast n, ← Int.cast_natCast d,
+    ← Int.isSquare_natCast_iff (n := Rat.den _), Rat.den_div_eq_of_coprime]
+  · simp [hd]
+  · contrapose! hnd
+    simp_all
+  · simpa
+
+theorem not_isSquare_of_isNegNNRat_rat (a : ℚ) (n d : ℕ) (hn : n ≠ 0) (hd : d ≠ 0)
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormNum/IsSquare.lean]: `NegNNRat` would mean "negative non-negative rational", right? Looks like `isRat_neg` of `isRat_negOfNat` are more common names for this case:
```suggestion
theorem not_isSquare_of_isRat_neg (a : ℚ) (n d : ℕ) (hn : n ≠ 0) (hd : d ≠ 0)
```

File: Mathlib/Tactic/NormNum/IsSquare.lean [hunk 4]
```diff
@@ -0,0 +1,184 @@
...
+
+namespace Mathlib.Meta.NormNum
+open Qq
+
+theorem isSquare_nat_of_isNat (a n : ℕ) (h : IsNat a n) (m : ℕ) (hm : m * m = n) :
+    IsSquare a :=
+  ⟨m, h.1.trans hm.symm⟩
+
+theorem not_isSquare_nat_of_isNat (a n : ℕ) (h : IsNat a n) (m k : ℕ) (hm : m * m = k)
+    (hk₁ : Nat.blt k n) (hk₂ : Nat.ble n (k + 2 * m)) :
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormNum/IsSquare.lean:32]: It took me a moment to realize `k < n ≤ k + 2 * m` is the same as `m^2 < n < (m+1)^2` here. Would be good to have a comment pointing this out.

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

**Comment by yury-harmonic** [comment]
bors merge
